US08039450B2
A mixture of methyl 2-cyano-5-fluorobenzoate (4.48 g, 25.0 mmol), 2-bromo-5-hydroxybenzaldehyde (5.03 g, 25.0 mmol), and potassium carbonate (4.14 g, 30.0 mmol) in N,N-dimethylformamide (50 mL) was stirred at 80° C. overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography (chloroform) to give methyl 5-(4-bromo-3-formylphenoxy)-2-cyanobenzoate (5.35 g, 71%).

reactant | methyl 2-cyano-5-fluorobenzoate | 25.0 mmol, 4.48 g | C(#N)C1=C(C(=O)OC)C=C(C=C1)F | C9H6FNO2
reactant | 2-bromo-5-hydroxybenzaldehyde | 25.0 mmol, 5.03 g | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | potassium carbonate | 30.0 mmol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | methyl 5-(4-bromo-3-formylphenoxy)-2-cyanobenzoate | 5.35 g, 71% | BrC1=C(C=C(OC=2C=CC(=C(C(=O)OC)C2)C#N)C=C1)C=O | C16H10BrNO4
